AMPLIFICADOR INTEGRADOR COM FONTE DC (INTEGRACAO NO 3)
* PRINT_SOLUTION
V0200 1 0 DC 1
R0100 1 2 1
C0101 2 3 1
R0102 3 0 1
O0300 3 0 0 2
.TRAN 0.01 0.0001 TRAP 1.0
