AMPLIFICADOR INVERSOR COM FONTE DC (NO 1 e 3)
* PRINT_SOLUTION
R0100 1 2 1
R0101 2 3 1
R0102 3 0 1
V0200 1 0 DC 1
O0300 3 0 0 2
.TRAN 0.1 0.001 TRAP 1.0
