AMPLIFICADOR INVERSOR COM FONTE SENOIDAL
* PRINT_SOLUTION
R0100 1 2 1
R0101 2 3 1
R0102 3 0 1
V0100 1 0 SIN 0 1 1 0 0 0 5
O0300 3 0 0 2
.TRAN 7 0.001 TRAP 1.0