Amplificador RCC
R2 1 0 13000
RE1 2 0 1000
RE2 3 0 3400
RF 4 3 10000
RS 5 6 1000
RL 7 0 10000
R1 8 1 37000
RC1 8 9 3000
R0810 8 10 3000
C0200 2 0 1
C0405 4 5 1
C0104 1 4 1
C0710 7 10 1
Q0901 9 1 2 NPN 1 0 0
Q1009 10 9 3 NPN 1 0 0
V0600 6 0 SIN 0 0.01 10 0 0 1 5
V0800 8 0 DC 10
.TRAN 0.5 0.0001 TRAP 1 UIC
