FONTE SENOIDAL COM RESISTOR NAO LINEAR
* PRINT_RESUME
* PRINT_ANALYSIS_DATA
* PRINT_NETLIST
* PRINT_INTERNAL_NETLIST
* PRINT_INTERNAL_VARIABLES
V0100 1 0 SIN 0 2 1 0 0 0 1
N0300 1 2 -10 0.001 0 0 0.5 0.5 1 0.5
R0200 2 0 1
.TRAN 1 0.001 TRAP 1
